US05690904
2-(4-Methoxybenzylthio)aniline
2-Aminothiophenol (25 g, 0.2 mol) was reacted with 16 g sodium hydroxide (0.40 mol) and 34.8 g p-methoxybenzylchoride (0.22 mol) by the method described in Example 24. The mixture was stirred at room temperature for 16 hours. The precipitate was filtered from the reaction mixture, and recrystallised from ethyl acetate to give 23 g of the desired product as a light brown solid (47% yield). 1H NMR (60 MHz, CDCl3): 3.66 (s, 3H), 3.73 (s, 2H), 4.13 (brs, 2H), 6.3-7.3(m, 8H) ppm. TLC (50% ethyl acetate/hexane) Rf 0.80.

reactant | 2-Aminothiophenol | 0.2 mol, 25 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydroxide | 0.40 mol, 16 g | [OH-].[Na+]
reactant | p-methoxybenzylchoride | 0.22 mol, 34.8 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-(4-Methoxybenzylthio)aniline | 23 g, 47% yield | COC1=CC=C(CSC2=C(N)C=CC=C2)C=C1 | C14H15NOS
